data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4407,5039,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[CH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C-:20]([C:21]#[N:22])[C:23]#[N:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:12]([CH3:11])[C:20]2([C:21]#[N:22])[C:23]#[N:24],water,298.15,22.314221359946213,-0.9367929175570164
1764,1955,[CH3:12][O:13][C:14](=[O:15])[CH:16]=[N+:17]([CH3:18])[C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[Cl:1][C:2]([Cl:3])=[C:4]([Cl:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[Cl:1][C:2]1([Cl:3])[C:4]([Cl:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:16]([C:14]([O:13][CH3:12])=[O:15])[N:17]([CH3:18])[C:19]1([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25],water,298.15,43.528874535327645,-7.1101049432070855
105,121,[CH3:11][C:12]([CH3:13])=[N+:14]([CH3:15])[O-:16].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[O:16][N:14]([CH3:15])[C:12]2([CH3:11])[CH3:13],water,298.15,34.471473918567035,-7.461219319901488
78,89,[CH2:8]=[O+:9][C-:10]([C:11]([CH3:12])=[O:13])[C:14]([CH3:15])=[O:16].[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[O:9][CH2:8]1,water,298.15,10.878794608238657,-60.69774435075541
5110,5801,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14](=[O:15])[NH:16][CH3:17])[N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14](=[O:15])[NH:16][CH3:17])[N:18]([CH3:19])[C:20]1([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,29.40675471700045,-13.670472157431504
4770,5448,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[O+:18]=[C:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]#[N:17])[O:18][C:19]2([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,10.753534394434874,-26.9027305257865
1088,1186,[CH3:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n+:24]1[CH3:25].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:17]1([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[O:16][C:14](=[O:15])[C:13]2([C:11]([CH3:10])=[O:12])[N:24]1[CH3:25],water,298.15,33.86381930689935,4.1458735256352055
1711,1893,[CH3:17][O:18][C:19](=[O:20])[c:21]1[nH+:22][c-:23]([C:24]#[N:25])[c:26](=[O:27])[o:28]1.[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([CH3:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([CH3:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]1([C:24]#[N:25])[NH:22][C:21]2([C:19]([O:18][CH3:17])=[O:20])[O:28][C:26]1=[O:27],water,298.15,24.90634396717921,-9.59038766342577
2002,2223,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[NH:29][CH3:30].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([C:18]([CH3:19])=[O:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:27](=[O:28])[NH:29][CH3:30],water,298.15,13.350199256865304,-34.05860543410457
1666,1838,[CH3:16][CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[CH:17]([CH3:16])[NH:18][C:19]3([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,23.630836473717466,-37.358156632519744
5267,5972,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N+:25]([CH3:26])=[C:27]([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:25]([CH3:26])[C:27]2([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,49.91001024544658,16.96920356333911
